US08685977B2
5-chloro-4-[4-chloro-3-(trifluoromethyl)phenoxy]-2-fluorobenzoic acid
t-butyl-5-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoate (Preparation 50, 245 mg, 0.58 mmol) was dissolved in TFA (4 mL) and the reaction stirred at room temperature for 2 h. The TFA was removed under reduced pressure to give the title compound (219 mg, quant.) as an off-white solid.

reactant | t-butyl-5-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoate | 0.58 mmol, 245 mg | C(C)(C)(C)OC(C1=C(C=C(C(=C1)Cl)OC1=CC(=C(C=C1)Cl)C(F)(F)F)F)=O | C18H14Cl2F4O3
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-chloro-4-[4-chloro-3-(trifluoromethyl)phenoxy]-2-fluorobenzoic acid | 219 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C14H6Cl2F4O3
